US08748624B2
STEP A: 2-chloro-4′-(trifluoromethyl)-[1,1′-biphenyl]-4-amine
4-bromo-3-chloroaniline (2.1 g, 10.2 mmol), (4-(trifluoromethyl)phenyl)boronic acid (2.7 g, 14.2 mmol), Pd(dppf)Cl2 (744 mg, 1.0 mmol), 2M aqueous Na2CO3 (15.3 mL, 30.5 mmol) were dissolved in 1,4-dioxane (30 mL) and the resulting mixture was heated to 90° C. After 16 h the resulting mixture was cooled to room temperature, was diluted with EtOAc, washed with water and brine. The organic layer was dried (Na2SO4), concentrated and diethyl ether was added. The resulting precipitate was filtered and dried in vacuo to yield the title compound.

reactant | 4-bromo-3-chloroaniline | 10.2 mmol, 2.1 g | BrC1=C(C=C(N)C=C1)Cl | C6H5BrClN
reactant | (4-(trifluoromethyl)phenyl)boronic acid | 14.2 mmol, 2.7 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | Na2CO3 | 30.5 mmol, 2M, 15.3 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | 1.0 mmol, 744 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-chloro-4′-(trifluoromethyl)-[1,1′-biphenyl]-4-amine | ClC1=C(C=CC(=C1)N)C1=CC=C(C=C1)C(F)(F)F | C13H9ClF3N
